US07728025B2
(Step 6) Production of trans-1-(4-acetoxy-2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
10 mg of 4-methanesulfonyl-phenol and 20 mg of cesium carbonate were added to a dimethylformamide (0.5 ml) solution of 21 mg of trans-1-acetyl-2-(5-nitro-2-fluoro-4-((pyridin-2-carbonyl)-amino)-phenyl)-4-acetoxy-pyrrolidine, and the reaction liquid was stirred at 90° C. for 1 hour. 100 mg of tin(II) chloride dihydrate was added to it, and the reaction liquid was stirred at 90° C. for 5 hours. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a yellow oily substance.

reactant | 4-methanesulfonyl-phenol | 10 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | cesium carbonate | 20 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-1-acetyl-2-(5-nitro-2-fluoro-4-((pyridin-2-carbonyl)-amino)-phenyl)-4-acetoxy-pyrrolidine | 21 mg | C(C)(=O)N1[C@H](C[C@@H](C1)OC(C)=O)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C1=NC=CC=C1)F | C20H19FN4O6
reactant | tin(II) chloride dihydrate | 100 mg | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | trans-1-(4-acetoxy-2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | C(C)(=O)O[C@H]1C[C@@H](N(C1)C(C)=O)C1=CC2=C(N=C(N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)C | C27H26N4O6S
